* 3-phase LLC op-point VBUS=650 VBANK=260 fsw=203.0k PAR
.model DREC D(Is=1e-9 N=1.8 Rs=0.022)
VBUS bus 0 DC 650

VGH1 gh1 0 PULSE(0 1 0.0000e+0 20n 20n 2.3793e-6 4.9261e-6)
VGL1 gl1 0 PULSE(0 1 2.4631e-6 20n 20n 2.3793e-6 4.9261e-6)
BSH1 bus leg1 I=v(bus,leg1)*(2e-5+v(gh1)*28.57)
BSL1 leg1 0 I=v(leg1)*(2e-5+v(gl1)*28.57)
CPAR1 leg1 0 250p
VSP1 leg1 tk1 DC 0
CR1 tk1 tk1b 1.778e-7 ic=325
LR1 tk1b pri1 0.0000073
RW1 pri1 pri1b 0.005
LM1 pri1b star 0.000065
LS11 s11w s11n 0.000065
RW11 s11w s11p 0.005
LS21 s21w s21n 0.000065
RW21 s21w s21p 0.005
KA1 LM1 LS11 0.9999
KB1 LM1 LS21 0.9999
KC1 LS11 LS21 0.9999
RB11 s11p 0ba 1meg
RB21 s11n 0ba 1meg
RB31 s21p 0bb 1meg
RB41 s21n 0bb 1meg
DA11 s11p bkA DREC
DA21 0ba s11p DREC
DA31 s11n bkA DREC
DA41 0ba s11n DREC
DB11 s21p bkB DREC
DB21 0bb s21p DREC
DB31 s21n bkB DREC
DB41 0bb s21n DREC

VGH2 gh2 0 PULSE(0 1 1.6420e-6 20n 20n 2.3793e-6 4.9261e-6)
VGL2 gl2 0 PULSE(0 1 4.1051e-6 20n 20n 2.3793e-6 4.9261e-6)
BSH2 bus leg2 I=v(bus,leg2)*(2e-5+v(gh2)*28.57)
BSL2 leg2 0 I=v(leg2)*(2e-5+v(gl2)*28.57)
CPAR2 leg2 0 250p
VSP2 leg2 tk2 DC 0
CR2 tk2 tk2b 1.778e-7 ic=325
LR2 tk2b pri2 0.0000073
RW2 pri2 pri2b 0.005
LM2 pri2b star 0.000065
LS12 s12w s12n 0.000065
RW12 s12w s12p 0.005
LS22 s22w s22n 0.000065
RW22 s22w s22p 0.005
KA2 LM2 LS12 0.9999
KB2 LM2 LS22 0.9999
KC2 LS12 LS22 0.9999
RB12 s12p 0ba 1meg
RB22 s12n 0ba 1meg
RB32 s22p 0bb 1meg
RB42 s22n 0bb 1meg
DA12 s12p bkA DREC
DA22 0ba s12p DREC
DA32 s12n bkA DREC
DA42 0ba s12n DREC
DB12 s22p bkB DREC
DB22 0bb s22p DREC
DB32 s22n bkB DREC
DB42 0bb s22n DREC

VGH3 gh3 0 PULSE(0 1 3.2841e-6 20n 20n 2.3793e-6 4.9261e-6)
VGL3 gl3 0 PULSE(0 1 5.7471e-6 20n 20n 2.3793e-6 4.9261e-6)
BSH3 bus leg3 I=v(bus,leg3)*(2e-5+v(gh3)*28.57)
BSL3 leg3 0 I=v(leg3)*(2e-5+v(gl3)*28.57)
CPAR3 leg3 0 250p
VSP3 leg3 tk3 DC 0
CR3 tk3 tk3b 1.778e-7 ic=325
LR3 tk3b pri3 0.0000073
RW3 pri3 pri3b 0.005
LM3 pri3b star 0.000065
LS13 s13w s13n 0.000065
RW13 s13w s13p 0.005
LS23 s23w s23n 0.000065
RW23 s23w s23p 0.005
KA3 LM3 LS13 0.9999
KB3 LM3 LS23 0.9999
KC3 LS13 LS23 0.9999
RB13 s13p 0ba 1meg
RB23 s13n 0ba 1meg
RB33 s23p 0bb 1meg
RB43 s23n 0bb 1meg
DA13 s13p bkA DREC
DA23 0ba s13p DREC
DA33 s13n bkA DREC
DA43 0ba s13n DREC
DB13 s23p bkB DREC
DB23 0bb s23p DREC
DB33 s23n bkB DREC
DB43 0bb s23n DREC
VBKA bkA 0ba DC 260
VBKB bkB 0bb DC 260
RTA 0ba 0 1u
RTB 0bb 0 1u
RSTAR star 0 100meg
.tran 30n 0.0004 0 15n uic
.option method=gear reltol=1e-3 abstol=1e-6 vntol=1u itl4=100
.control
set filetype=ascii
run
wrdata llc-light-260.out i(VSP1) i(VBKA) i(VBKB) v(leg1) v(gh1) i(VSP2)
quit
.endc
.end